US07595398B2
4-(2-Bromo-acetyl)-N-cyclopentyl-benzenesulfonamide
4-(2-Bromo-acetyl)-benzenesulfonyl chloride (150 mg, 0.17 mmol) was dissolved in 4 mL of dry dichloromethane. To this solution at 0° C., was added triethylamine (0.03 mL, 0.2 mmol), followed by cyclopentylamine (0.2 mmol, 0.011 g). Reaction mixture was stirred at 0° C. for 15 minutes and then quenched with H2O. The reaction mixture was extracted with H2O. The organic phase was isolated, dried over MgSO4 and evaporated. It was used in the next step without any further purification.

reactant | 4-(2-Bromo-acetyl)-benzenesulfonyl chloride | 0.17 mmol, 150 mg | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H6BrClO3S
reactant | triethylamine | 0.2 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopentylamine | 0.2 mmol, 0.011 g | C1(CCCC1)N | C5H11N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(2-Bromo-acetyl)-N-cyclopentyl-benzenesulfonamide | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)NC1CCCC1 | C13H16BrNO3S
